US04567197
A mixture of t-butyl ethyl 2-allyl-2-(2-ethylbenzoyl)malonate (14.3 g.), acetic anhydride (4 ml.) and p-toluenesulphonic acid (100 mg.) in acetic acid (200 ml.) was heated at 140° C. under nitrogen for 75 minutes and then evaporated. The residue was shaken with a mixture of saturated sodium bicarbonate solution (100 ml.) and ethyl acetate (100 ml.). The organic phase was dried (MgSO4) and evaporated. The oil obtained (9.3 g.) was purified by flash column chromatography (280 g.) using toluene as eluant to give ethyl 2-allyl-3-(2-ethylphenyl)-3-oxopropionate (7.4 g.) as a pale yellow oil; NMR: 1.19 (6H,m), (2.74 (4H,m), 4.15 (3H,m), 5.05(2H,m), 5.79 (1H,m), 7.30 (3H,m) and 7.61 (1H,m)ppm.

reactant | t-butyl ethyl 2-allyl-2-(2-ethylbenzoyl)malonate | 14.3 g | C(C=C)C(C(=O)OC(C)(C)C)(C(=O)OCC)C(C1=C(C=CC=C1)CC)=O | C21H28O5
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-allyl-3-(2-ethylphenyl)-3-oxopropionate | 7.4 g | C(C=C)C(C(=O)OCC)C(=O)C1=C(C=CC=C1)CC | C16H20O3
